US08044206B2
Under cooling at −78° C., a solution of 1.50 g of 4-bromo-2,6-dimethylanisole in 20 ml of tetrahydrofuran was added to a solution of 1.6M hexane solution of 4.8 ml of n-butyl lithium in 20 ml of tetrahydrofuran. The mixture was stirred for 1 hour. A solution of 1.50 g of tert-butyl 4-(2-oxoethyl)piperidine-1-carboxylate in 20 ml of tetrahydrofuran was added to the mixture. After stirring for 30 minutes, the mixture was stirred at ambient temperature for further 3 hours. The reaction mixture was poured into water, followed by extraction with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and then dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated and the resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give 628 mg of tert-butyl 4-[2-hydroxy-2-(4-methoxy-2,6-dimethylphenyl)ethyl]piperidine-1-carboxylate as an oil. To the oil was added 15 ml of 10% hydrochloric acid and the mixture was heated under reflux for 2 hours. After cooling, the reaction mixture was alkalized with 20% aqueous sodium hydroxide solution, followed by extraction with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give 291 mg of tert-butyl 4-[(E)-2-(4-methoxy-2,6-dimethylphenyl)vinyl]piperidine-1-carboxylate.

reactant | 4-bromo-2,6-dimethylanisole | 1.50 g | BrC1=CC(=C(C(=C1)C)OC)C | C9H11BrO
reactant | hexane | 1.6M | CCCCCC | C6H14
reactant | n-butyl lithium | 4.8 ml | C(CCC)[Li]
reactant | tert-butyl 4-(2-oxoethyl)piperidine-1-carboxylate | 1.50 g | O=CCC1CCN(CC1)C(=O)OC(C)(C)C | C12H21NO3
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | tert-butyl 4-[2-hydroxy-2-(4-methoxy-2,6-dimethylphenyl)ethyl]piperidine-1-carboxylate | 628 mg | OC(CC1CCN(CC1)C(=O)OC(C)(C)C)C1=C(C=C(C=C1C)OC)C | C21H33NO4
